### PR TITLE
Remove duplicated lemmas in ssralg

### PR DESCRIPTION
**Pull request by Tragicus**
##### Motivation for this change

https://github.com/math-comp/math-comp/pull/1256 left copies of the theory of nmodules and zmodules in `ssralg.v`. This PR removes them and generalizes a few things.
FIXME: We now have two non-uniform coercions, namely `zmod_closed0D` and `zmod_closedD`, because they require `zmodType`s but `zmod_closed` only requires `baseZmodType`s. I am not sure what we should do about it.

##### Minimal TODO list

- [ ] added changelog entries with `doc/changelog/make-entry.sh`

- [ ] added corresponding documentation in the headers
- [ ] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [ ] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

**Comment by proux01** [comment]
@Tragicus what is the status of this? should we try to have it in 2.5.0?

**Comment by Tragicus** [comment]
I think we wanted to merge two PRs which are now merged, so I can try again.

**Comment by pi8027** [comment]
> FIXME: We now have two non-uniform coercions, namely `zmod_closed0D` and `zmod_closedD`, because they require `zmodType`s but `zmod_closed` only requires `baseZmodType`s. I am not sure what we should do about it.

A potential solution is to specialize `zmod_closed` to `zmodType`. It's probably safe to do so since the definition of `zmod_closed` makes sense only in the presence of Z-module laws.

**Comment by Tragicus** [comment]
Oh, yes, please. There is still quite a lot to fix, though, and I am not sure how bad it is.

**Comment by pi8027** [comment]
Done.

File: algebra/ring_quotient.v [hunk 1]
```diff
@@ -336,7 +336,7 @@ Canonical pi_opp_morph := PiMorph1 pi_opp.
 Lemma pi_add : {morph \pi : x y / x + y >-> add x y}.
 Proof.
 move=> x y /=; unlock add; apply/eqP; rewrite piE equivE.
-rewrite opprD addrAC addrA -addrA.
+rewrite opprD addrAC addrA -[X in X \in _]addrA.
```
Comment (pi8027) [inline algebra/ring_quotient.v]: I guess `addrACA` simplified this kind of proof.

Comment (pi8027) [reply algebra/ring_quotient.v]: Done.

File: algebra/ssralg.v [hunk 2]
```diff
@@ -738,180 +697,14 @@ Export Algebra.
...
-End ClosedPredicates.
-
-End ZmoduleTheory.
-
-Arguments addrI {V} y [x1 x2].
-Arguments addIr {V} x [x1 x2].
-Arguments opprK {V}.
-Arguments oppr_inj {V} [x1 x2].
-Arguments telescope_sumr_eq {V n m} f u.
+#[deprecated(since="mathcomp 2.4.0", use=Algebra.subr_closed)]
```
Comment (pi8027) [inline algebra/ssralg.v]:
```suggestion
#[deprecated(since="mathcomp 2.6.0", use=Algebra.subr_closed)]
```

File: algebra/ssralg.v [hunk 3]
```diff
@@ -738,180 +697,14 @@ Export Algebra.
...
-Lemma mulrnBl n : {morph (fun x => x *+ n) : x y / x - y}.
-Proof. exact: mulrnBl. Qed.
-
-Lemma mulrnBr x m n : n <= m -> x *+ (m - n) = x *+ m - x *+ n.
-Proof. exact: mulrnBr. Qed.
-
-Lemma sumrN I r P (F : I -> V) :
-  (\sum_(i <- r | P i) - F i = - (\sum_(i <- r | P i) F i)).
-Proof. exact: sumrN. Qed.
+#[deprecated(since="mathcomp 2.4.0", use=Algebra.zmod_closed0D)]
```
Comment (pi8027) [inline algebra/ssralg.v]:
```suggestion
#[deprecated(since="mathcomp 2.6.0", use=Algebra.zmod_closed0D)]
```

File: boot/monoid.v [hunk 4]
```diff
@@ -460,6 +460,16 @@ Definition commg (G : baseGroupType) (x y : G) := x^-1 * (conjg x y).
...
+Section ClosedPredicates.
+
+Variable (G : baseGroupType) (S : {pred G}).
+
+Definition invg_closed := {in S, forall u, u^-1 \in S}.
+Definition divg_closed := {in S &, forall u v, u / v \in S}.
+Definition group_closed := 1 \in S /\ divg_closed.
+
+End ClosedPredicates.
+
```
Comment (pi8027) [inline boot/monoid.v:472]: This change (IIUC, generalization from `groupType` to `baseGroupType`) seems a bit orthogonal to the main objective of this PR.

File: algebra/ssralg.v (hunk 2 above)
Comment (pi8027) [reply algebra/ssralg.v]: Done.

File: algebra/ssralg.v (hunk 3 above)
Comment (pi8027) [reply algebra/ssralg.v]: Done.

File: boot/monoid.v (hunk 4 above)
Comment (pi8027) [reply boot/monoid.v:472]: I propose separating this change into another PR. What do you think? @Tragicus @proux01

Comment (proux01) [reply boot/monoid.v:472]: No opinion, fine by me

Comment (Tragicus) [reply boot/monoid.v:472]: I would say this is part of the cleanup as this was supposed to be done from the very beginning, and it would be a bit sad to open a PR, with CI, review and everything for 4 characters (I can not remember any `rewrite` breakages due to this generalization but I might simply have forgotten). Nevertheless, if you think this is necessary, I can do it.

Comment (pi8027) [reply boot/monoid.v:472]: Ok, let's not split the PR into two then.

File: doc/changelog/02-changed/1433-cleanup_monoid.md [hunk 5]
```diff
@@ -0,0 +1,13 @@
+- in `monoid.v`
+  + Definitions `invg_closed`, `divg_closed`, `group_closed` generalized from
+    `groupType` to `baseGroupType`
```
Comment (pi8027) [inline doc/changelog/02-changed/1433-cleanup_monoid.md:3]:
```suggestion
    `groupType` to `baseGroupType`
    ([#1433](https://github.com/math-comp/math-comp/pull/1433)).
```

**Comment by pi8027** [comment]
@proux01 @affeldt-aist Do you have time to review this PR soon?

**Review by affeldt-aist — APPROVED** [review]
